### PR TITLE
Fix spacing after colons in type annotations

### PR DESCRIPTION
**Pull request by pirapira**
## Summary
- Standardize formatting by adding spaces after colons in type annotations
- Changes patterns like `(F:=F)` to `(F := F)` throughout the codebase
- Improves code consistency with Lean formatting standards

## Test plan
- [x] lake build succeeds

🤖 Generated with [Claude Code](https://claude.ai/code)

### CODE REVIEW

**Comment by pirapira** [comment]
I don't think this is complete yet. The PR is getting big so probably better to merge this, rather than to maintain and improve it.

File: Clean/Utils/Tactics/SimplifyProvableStructEval.lean [hunk 1]
```diff
@@ -117,5 +117,5 @@ elab "simplify_provable_struct_eval" : tactic => do
 
     -- Apply simp to this hypothesis
     let hypIdent := mkIdent hypName
-    let tac ← `(tactic| simp only [$[$simpArgs],*] at $hypIdent:ident)
+    let tac ← `(tactic| simp only [$[$simpArgs],*] at $hypIdent :ident)
```
Comment (pirapira) [inline Clean/Utils/Tactics/SimplifyProvableStructEval.lean]:
```suggestion
    let tac ← `(tactic| simp only [$[$simpArgs],*] at $hypIdent:ident)
```

File: Clean/Utils/Tactics/SplitProvableStructEq.lean [hunk 2]
```diff
@@ -122,7 +122,7 @@ def splitProvableStructEq : TacticM Unit := do
       -- Apply all the lemmas we found
       for lemmaIdent in lemmasToApply do
         try
-          evalTactic (← `(tactic| simp only [$lemmaIdent:ident] at *))
+          evalTactic (← `(tactic| simp only [$lemmaIdent :ident] at *))
```
Comment (pirapira) [inline Clean/Utils/Tactics/SplitProvableStructEq.lean]:
```suggestion
          evalTactic (← `(tactic| simp only [$lemmaIdent:ident] at *))
```

File: Clean/Circomlib/Gates.lean [hunk 3]
```diff
@@ -34,7 +34,7 @@ template XOR() {
 def main (input : Expression (F p) × Expression (F p)) := do
   let a := input.1
   let b := input.2
-  let out <== a + b - 2*a*b
+  let out <== a + b - 2 * a * b
```
Comment (mitschabaude) [inline Clean/Circomlib/Gates.lean]: is this really the convention we want? without spaces around `*` it looks closer to what mathematicians would write:

$$
a + b - 2ab
$$

File: Clean/Circomlib/Mux1.lean [hunk 4]
```diff
@@ -34,7 +34,7 @@ template MultiMux1(n) {
     }
 }
 -/
-def main (n: ℕ) (input : Var (Inputs n) (F p)) := do
+def main (n : ℕ) (input : Var (Inputs n) (F p)) := do
```
Comment (mitschabaude) [inline Clean/Circomlib/Mux1.lean:37]: this is definitely the convention we should have used all along

File: Clean/Circuit/Explicit.lean [hunk 5]
```diff
@@ -105,7 +105,7 @@ instance ExplicitCircuit.from_map {f : α → β} {g : Circuit F α}
 
 -- basic operations are explicit circuits
 
-instance : ExplicitCircuits (F:=F) witnessVar where
+instance : ExplicitCircuits (F := F) witnessVar where
```
Comment (mitschabaude) [inline Clean/Circuit/Explicit.lean]: personally, the previous convention looked cleaner to me but I'm open to changing it

File: Clean/Circomlib/Gates.lean (hunk 3 above)
Comment (pirapira) [reply Clean/Circomlib/Gates.lean]: Not certain. I realized my personal preference is squeezed `2*a*b`, and we'll be writing a lot of polynomials. I'll revert these in this PR.

File: Clean/Gadgets/Rotation32/Theorems.lean [hunk 6]
```diff
@@ -19,15 +19,15 @@ each resulting (high, low) pair again.
...
 def rotRight32_u32 : U32 ℕ → ℕ → U32 ℕ
   | ⟨ x0, x1, x2, x3 ⟩, o => ⟨
-    (x0 / 2^o) + (x1 % 2^o) * 2^(8-o),
-    (x1 / 2^o) + (x2 % 2^o) * 2^(8-o),
-    (x2 / 2^o) + (x3 % 2^o) * 2^(8-o),
-    (x3 / 2^o) + (x0 % 2^o) * 2^(8-o),
+    (x0 / 2^o) + (x1 % 2^o) * 2^(8 - o),
+    (x1 / 2^o) + (x2 % 2^o) * 2^(8 - o),
+    (x2 / 2^o) + (x3 % 2^o) * 2^(8 - o),
+    (x3 / 2^o) + (x0 % 2^o) * 2^(8 - o),
```
Comment (mitschabaude) [inline Clean/Gadgets/Rotation32/Theorems.lean]: I remember personally removing these spaces because I felt being in an exponent (where `^` definitely should be written without surrounding spaces) meant the inner operations should look more "compressed" as well

File: Clean/Circomlib/Gates.lean (hunk 3 above)
Comment (mitschabaude) [reply Clean/Circomlib/Gates.lean]: thanks!

File: Clean/Gadgets/Rotation32/Theorems.lean (hunk 6 above)
Comment (pirapira) [reply Clean/Gadgets/Rotation32/Theorems.lean]: ohhh, makes sense.

File: Clean/Circuit/Explicit.lean (hunk 5 above)
Comment (pirapira) [reply Clean/Circuit/Explicit.lean]: will squeeze.

File: Clean/Gadgets/Rotation32/Theorems.lean (hunk 6 above)
Comment (mitschabaude) [reply Clean/Gadgets/Rotation32/Theorems.lean]: but I'm open to changing it for consistency with other cases of `+` and `-`

**Comment by pirapira** [comment]
I'll find some documents for Lean conventions, and add a `doc/conventions.md` containing
* links to Lean conventions
* local conventions that were discussed above (unless our choices completely coincide with the usual Lean conventions).

File: Clean/Gadgets/Rotation32/Theorems.lean (hunk 6 above)
Comment (pirapira) [reply Clean/Gadgets/Rotation32/Theorems.lean]: It's borderline and I'm inclined to keep the original. Especially now that I understand you spent some time removing these spaces.

File: Clean/Circuit/Loops.lean [hunk 7]
```diff
@@ -43,8 +43,8 @@ def ConstantLength.fromConstantLength' [Inhabited β] (body : β × Fin m → Ci
 -- helper lemmas to characterize `forAll` statements on the operations generated by loops
 
 lemma forAll_flatten_abstract (circuit : Fin m → Circuit F β) (constant : ConstantLength circuit) :
-  Operations.forAll n prop (List.ofFn fun i => (circuit i).operations (n + i * constant.localLength)).flatten
-    ↔ ∀ (i : Fin m), (circuit i).forAll (n + i * constant.localLength) prop := by
+  Operations.forAll n prop (List.ofFn fun i => (circuit i).operations (n + i*constant.localLength)).flatten
+    ↔ ∀ (i : Fin m), (circuit i).forAll (n + i*constant.localLength) prop := by
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
  Operations.forAll n prop (List.ofFn fun i => (circuit i).operations (n + i * constant.localLength)).flatten
    ↔ ∀ (i : Fin m), (circuit i).forAll (n + i * constant.localLength) prop := by
```

File: Clean/Circuit/Loops.lean [hunk 8]
```diff
@@ -66,22 +66,22 @@ lemma forAll_flatten_abstract (circuit : Fin m → Circuit F β) (constant : Con
     rw [ih]
 
 lemma forAll_flatten (xs : Vector α m) {circuit : α → Circuit F β} (constant : ConstantLength circuit) :
-  Operations.forAll n prop (List.ofFn fun (i : Fin m) => (circuit xs[i.val]).operations (n + i * constant.localLength)).flatten
-    ↔ ∀ (i : Fin m), (circuit xs[i.val]).forAll (n + i * constant.localLength) prop :=
+  Operations.forAll n prop (List.ofFn fun (i : Fin m) => (circuit xs[i.val]).operations (n + i*constant.localLength)).flatten
+    ↔ ∀ (i : Fin m), (circuit xs[i.val]).forAll (n + i*constant.localLength) prop :=
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
  Operations.forAll n prop (List.ofFn fun (i : Fin m) => (circuit xs[i.val]).operations (n + i * constant.localLength)).flatten
    ↔ ∀ (i : Fin m), (circuit xs[i.val]).forAll (n + i * constant.localLength) prop :=
```

File: Clean/Circuit/Loops.lean [hunk 9]
```diff
@@ -66,22 +66,22 @@ lemma forAll_flatten_abstract (circuit : Fin m → Circuit F β) (constant : Con
...
   forAll_flatten_abstract (fun i : Fin m => circuit xs[i.val]) {
     localLength := constant.localLength
     localLength_eq _ _ := constant.localLength_eq .. }
 
 -- helper lemma to do induction on (List.ofFn ...).flatten terms
 private lemma ofFn_flatten_cons {circuit : α → Circuit F β} (constant : ConstantLength circuit) (x : α) (xs : Vector α m) (n : ℕ) :
-  (List.ofFn fun i => (circuit (Vector.cons x xs)[i.val]).operations (n + i * constant.localLength)).flatten
-    = (circuit x).operations n ++ (List.ofFn fun i => (circuit xs[i.val]).operations (n + constant.localLength + i * constant.localLength)).flatten := by
+  (List.ofFn fun i => (circuit (Vector.cons x xs)[i.val]).operations (n + i*constant.localLength)).flatten
+    = (circuit x).operations n ++ (List.ofFn fun i => (circuit xs[i.val]).operations (n + constant.localLength + i*constant.localLength)).flatten := by
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
  (List.ofFn fun i => (circuit (Vector.cons x xs)[i.val]).operations (n + i * constant.localLength)).flatten
    = (circuit x).operations n ++ (List.ofFn fun i => (circuit xs[i.val]).operations (n + constant.localLength + i * constant.localLength)).flatten := by
```

File: Clean/Circuit/Loops.lean [hunk 10]
```diff
@@ -66,22 +66,22 @@ lemma forAll_flatten_abstract (circuit : Fin m → Circuit F β) (constant : Con
...
   simp +arith [Vector.cons, add_mul]
 
 namespace ForM
 variable {circuit : α → Circuit F Unit} (xs : Vector α m) (constant : ConstantLength circuit) (n : ℕ)
 
-theorem localLength_eq : (xs.forM circuit).localLength n = m * constant.localLength := by
+theorem localLength_eq : (xs.forM circuit).localLength n = m*constant.localLength := by
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
theorem localLength_eq : (xs.forM circuit).localLength n = m * constant.localLength := by
```

File: Clean/Circuit/Loops.lean [hunk 11]
```diff
@@ -94,7 +94,7 @@ theorem output_eq : (xs.forM circuit).output n = () := rfl
 
 theorem operations_eq :
   (xs.forM circuit).operations n =
-    (List.ofFn fun (i : Fin m) => (circuit xs[i.val]).operations (n + i * constant.localLength)).flatten := by
+    (List.ofFn fun (i : Fin m) => (circuit xs[i.val]).operations (n + i*constant.localLength)).flatten := by
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
    (List.ofFn fun (i : Fin m) => (circuit xs[i.val]).operations (n + i * constant.localLength)).flatten := by
```

File: Clean/Circuit/Loops.lean [hunk 12]
```diff
@@ -103,15 +103,15 @@ theorem operations_eq :
 
 theorem forAll_iff {prop : Condition F} :
   (xs.forM circuit).forAll n prop ↔
-    ∀ (i : Fin m), (circuit xs[i.val]).forAll (n + i * constant.localLength) prop := by
+    ∀ (i : Fin m), (circuit xs[i.val]).forAll (n + i*constant.localLength) prop := by
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
    ∀ (i : Fin m), (circuit xs[i.val]).forAll (n + i * constant.localLength) prop := by
```

File: Clean/Circuit/Loops.lean [hunk 13]
```diff
@@ -103,15 +103,15 @@ theorem operations_eq :
...
   rw [forAll_def, operations_eq, forAll_flatten]
 end ForM
 
 namespace MapM
 variable {circuit : α → Circuit F β} {xs : Vector α m} [constant: ConstantLength circuit]
   {prop : Condition F}
 
-theorem localLength_eq : (xs.mapM circuit).localLength n = m * constant.localLength := by
+theorem localLength_eq : (xs.mapM circuit).localLength n = m*constant.localLength := by
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
theorem localLength_eq : (xs.mapM circuit).localLength n = m * constant.localLength := by
```

File: Clean/Circuit/Loops.lean [hunk 14]
```diff
@@ -120,7 +120,7 @@ theorem localLength_eq : (xs.mapM circuit).localLength n = m * constant.localLen
     ring
 
 theorem output_eq : (xs.mapM circuit).output n =
-    xs.mapIdx fun i x => (circuit x).output (n + i * constant.localLength) := by
+    xs.mapIdx fun i x => (circuit x).output (n + i*constant.localLength) := by
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
    xs.mapIdx fun i x => (circuit x).output (n + i * constant.localLength) := by
```

File: Clean/Circuit/Loops.lean [hunk 15]
```diff
@@ -150,7 +150,7 @@ lemma mapM_cons (xs : Vector α n) (body : α → Circuit F β) (x : α) :
   rfl
 
 theorem operations_eq : (xs.mapM circuit).operations n =
-    (List.ofFn fun (i : Fin m) => (circuit xs[i.val]).operations (n + i * constant.localLength)).flatten := by
+    (List.ofFn fun (i : Fin m) => (circuit xs[i.val]).operations (n + i*constant.localLength)).flatten := by
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
    (List.ofFn fun (i : Fin m) => (circuit xs[i.val]).operations (n + i * constant.localLength)).flatten := by
```

File: Clean/Circuit/Loops.lean [hunk 16]
```diff
@@ -159,7 +159,7 @@ theorem operations_eq : (xs.mapM circuit).operations n =
 
 theorem forAll_iff :
   (xs.mapM circuit).forAll n prop ↔
-    ∀ (i : Fin m), (circuit xs[i.val]).forAll (n + i * constant.localLength) prop := by
+    ∀ (i : Fin m), (circuit xs[i.val]).forAll (n + i*constant.localLength) prop := by
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
    ∀ (i : Fin m), (circuit xs[i.val]).forAll (n + i * constant.localLength) prop := by
```

File: Clean/Circuit/Loops.lean [hunk 17]
```diff
@@ -177,24 +177,24 @@ def prod (circuit : β → α → Circuit F β) : β × α → Circuit F β := f
...
+lemma foldlM_cons (x : α) :
   (Vector.cons x xs).foldlM circuit init = (do
     let init' ← circuit init x
     xs.foldlM circuit init') := by
   rw [Vector.foldlM_toList, Vector.cons, List.foldlM_cons]
   simp only [←Vector.foldlM_toList]
 
 theorem localLength_eq :
-    (xs.foldlM circuit init).localLength n = m * constant.localLength := by
+    (xs.foldlM circuit init).localLength n = m*constant.localLength := by
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
    (xs.foldlM circuit init).localLength n = m * constant.localLength := by
```

File: Clean/Circuit/Loops.lean [hunk 18]
```diff
@@ -177,24 +177,24 @@ def prod (circuit : β → α → Circuit F β) : β × α → Circuit F β := f
...
   case cons x xs ih =>
     rw [foldlM_cons, bind_localLength_eq, ih, constant.localLength_eq (init, x)]
     ring
 
-lemma finFoldl_cons_succ (x: α) :
-  Fin.foldl (m + 1) (fun acc i => (circuit acc (Vector.cons x xs)[i.val]).output (n + i * constant.localLength)) init
-    = Fin.foldl m (fun acc i => (circuit acc xs[i.val]).output (n + constant.localLength + i * constant.localLength)) ((circuit init x).output n) := by
+lemma finFoldl_cons_succ (x : α) :
+  Fin.foldl (m + 1) (fun acc i => (circuit acc (Vector.cons x xs)[i.val]).output (n + i*constant.localLength)) init
+    = Fin.foldl m (fun acc i => (circuit acc xs[i.val]).output (n + constant.localLength + i*constant.localLength)) ((circuit init x).output n) := by
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
  Fin.foldl (m + 1) (fun acc i => (circuit acc (Vector.cons x xs)[i.val]).output (n + i * constant.localLength)) init
    = Fin.foldl m (fun acc i => (circuit acc xs[i.val]).output (n + constant.localLength + i * constant.localLength)) ((circuit init x).output n) := by
```

File: Clean/Circuit/Loops.lean [hunk 19]
```diff
@@ -205,7 +205,7 @@ lemma finFoldl_cons_succ (x: α) :
 
 theorem output_eq :
   (xs.foldlM circuit init).output n =
-    Fin.foldl m (fun acc i => (circuit acc xs[i.val]).output (n + i * constant.localLength)) init := by
+    Fin.foldl m (fun acc i => (circuit acc xs[i.val]).output (n + i*constant.localLength)) init := by
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
    Fin.foldl m (fun acc i => (circuit acc xs[i.val]).output (n + i * constant.localLength)) init := by
```

File: Clean/Circuit/Loops.lean [hunk 20]
```diff
@@ -231,7 +231,7 @@ lemma foldlAcc_cons_succ (i : Fin m) (x : α) [constant : ConstantLength (prod c
 
 theorem operations_eq :
   (Vector.foldlM circuit init xs).operations n =
-    (List.ofFn fun i => (circuit (foldlAcc n xs circuit init i) xs[i.val]).operations (n + i * constant.localLength)).flatten := by
+    (List.ofFn fun i => (circuit (foldlAcc n xs circuit init i) xs[i.val]).operations (n + i*constant.localLength)).flatten := by
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
    (List.ofFn fun i => (circuit (foldlAcc n xs circuit init i) xs[i.val]).operations (n + i * constant.localLength)).flatten := by
```

File: Clean/Circuit/Loops.lean [hunk 21]
```diff
@@ -242,16 +242,16 @@ theorem operations_eq :
 variable {prop : Condition F}
 
 lemma forAll_flatten_foldl :
-  Operations.forAll n prop (List.ofFn fun (i : Fin m) => (circuit (foldlAcc n xs circuit init i) xs[i.val]).operations (n + i * constant.localLength)).flatten
-    ↔ ∀ (i : Fin m), (circuit (foldlAcc n xs circuit init i) xs[i.val]).forAll (n + i * constant.localLength) prop :=
+  Operations.forAll n prop (List.ofFn fun (i : Fin m) => (circuit (foldlAcc n xs circuit init i) xs[i.val]).operations (n + i*constant.localLength)).flatten
+    ↔ ∀ (i : Fin m), (circuit (foldlAcc n xs circuit init i) xs[i.val]).forAll (n + i*constant.localLength) prop :=
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
  Operations.forAll n prop (List.ofFn fun (i : Fin m) => (circuit (foldlAcc n xs circuit init i) xs[i.val]).operations (n + i * constant.localLength)).flatten
    ↔ ∀ (i : Fin m), (circuit (foldlAcc n xs circuit init i) xs[i.val]).forAll (n + i * constant.localLength) prop :=
```

File: Clean/Circuit/Loops.lean [hunk 22]
```diff
@@ -242,16 +242,16 @@ theorem operations_eq :
...
   forAll_flatten_abstract (fun i : Fin m => circuit (foldlAcc n xs circuit init i) xs[i.val]) {
     localLength := constant.localLength
     localLength_eq i n := constant.localLength_eq (_, _) _
   }
 
 theorem forAll_iff {constant : ConstantLength (prod circuit)} :
   (xs.foldlM circuit init).forAll n prop ↔
-    ∀ i : Fin m, (circuit (foldlAcc n xs circuit init i) xs[i.val]).forAll (n + i * (circuit init xs[i.val]).localLength) prop := by
+    ∀ i : Fin m, (circuit (foldlAcc n xs circuit init i) xs[i.val]).forAll (n + i*(circuit init xs[i.val]).localLength) prop := by
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
    ∀ i : Fin m, (circuit (foldlAcc n xs circuit init i) xs[i.val]).forAll (n + i * (circuit init xs[i.val]).localLength) prop := by
```

File: Clean/Circuit/Loops.lean [hunk 23]
```diff
@@ -265,7 +265,7 @@ variable {env : Environment F} {prop : Condition F} {m : ℕ}
 theorem forAll_iff_finRange {constant : ConstantLength (prod circuit)} :
   ((Vector.finRange m).foldlM circuit init).forAll n prop ↔
     ∀ i : Fin m, (circuit (foldlAcc n (Vector.finRange m) circuit init i) i)
-    |>.forAll (n + i * (circuit init i).localLength) prop := by
+    |>.forAll (n + i*(circuit init i).localLength) prop := by
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
    |>.forAll (n + i * (circuit init i).localLength) prop := by
```

File: Clean/Circuit/Loops.lean [hunk 24]
```diff
@@ -276,7 +276,7 @@ theorem foldlAcc_const_succ (constant : ConstantLength (prod circuit))
   (h_const_out : ConstantOutput fun (t : β × α) => circuit t.1 t.2)
   (i : ℕ) (hi : i + 1 < m) :
   foldlAcc n xs circuit init ⟨ i + 1, hi ⟩ =
-    (circuit default xs[i]).output (n + i * (circuit default default).localLength) := by
+    (circuit default xs[i]).output (n + i*(circuit default default).localLength) := by
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
    (circuit default xs[i]).output (n + i * (circuit default default).localLength) := by
```

File: Clean/Circuit/Loops.lean [hunk 25]
```diff
@@ -289,7 +289,7 @@ theorem foldlAcc_const (constant : ConstantLength (prod circuit))
   (i : ℕ) (hi : i < m) :
   foldlAcc n xs circuit init ⟨ i, hi ⟩ = match i with
     | 0 => init
-    | i + 1 => (circuit default xs[i]).output (n + i * (circuit default default).localLength) := by
+    | i + 1 => (circuit default xs[i]).output (n + i*(circuit default default).localLength) := by
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
    | i + 1 => (circuit default xs[i]).output (n + i * (circuit default default).localLength) := by
```

File: Clean/Circuit/Loops.lean [hunk 26]
```diff
@@ -389,7 +389,7 @@ variable {env : Environment F} {m n : ℕ} [Inhabited α] {xs : Vector α m}
 
 @[circuit_norm ↓]
 lemma forEach.localLength_eq :
-    (forEach xs body constant).localLength n = m * (body default).localLength := by
+    (forEach xs body constant).localLength n = m*(body default).localLength := by
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
    (forEach xs body constant).localLength n = m * (body default).localLength := by
```

File: Clean/Circuit/Loops.lean [hunk 27]
```diff
@@ -440,7 +440,7 @@ variable {env : Environment F} {m n : ℕ} [Inhabited α] {xs : Vector α m}
 
 @[circuit_norm ↓]
 lemma map.localLength_eq :
-    (map xs body constant).localLength n = m * (body default).localLength := by
+    (map xs body constant).localLength n = m*(body default).localLength := by
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
    (map xs body constant).localLength n = m * (body default).localLength := by
```

File: Clean/Circuit/Loops.lean [hunk 28]
```diff
@@ -484,7 +484,7 @@ variable {env : Environment F} {m n : ℕ} [NeZero m] {body : Fin m → Circuit
 
 @[circuit_norm ↓]
 lemma mapFinRange.localLength_eq :
-    (mapFinRange m body constant).localLength n = m * (body 0).localLength := by
+    (mapFinRange m body constant).localLength n = m*(body 0).localLength := by
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
    (mapFinRange m body constant).localLength n = m * (body 0).localLength := by
```

File: Clean/Circuit/Loops.lean [hunk 29]
```diff
@@ -531,7 +531,7 @@ variable {env : Environment F} {m n : ℕ} [Inhabited β] [Inhabited α] {xs : V
 
 @[circuit_norm ↓]
 lemma foldl.localLength_eq :
-    (foldl xs init body const_out constant).localLength n = m * (body default default).localLength := by
+    (foldl xs init body const_out constant).localLength n = m*(body default default).localLength := by
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
    (foldl xs init body const_out constant).localLength n = m * (body default default).localLength := by
```

File: Clean/Circuit/Loops.lean [hunk 30]
```diff
@@ -555,8 +555,8 @@ lemma foldl.forAll [NeZero m] :
     (body init (xs[0]'(NeZero.pos m)) |>.forAll n prop) ∧
     ∀ (i : ℕ) (hi : i + 1 < m),
       let k := (body default default).localLength;
-      let acc := (body default xs[i]).output (n + i*k);
-      (body acc xs[i + 1]).forAll (n + (i + 1)*k) prop := by
+      let acc := (body default xs[i]).output (n + i * k);
+      (body acc xs[i + 1]).forAll (n + (i + 1) * k) prop := by
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
      let acc := (body default xs[i]).output (n + i*k);
      (body acc xs[i + 1]).forAll (n + (i + 1)*k) prop := by
```

File: Clean/Circuit/Loops.lean [hunk 31]
```diff
@@ -586,8 +586,8 @@ lemma foldl.usesLocalWitnesses [NeZero m] :
     env.UsesLocalWitnessesCompleteness n (body init (xs[0]'(NeZero.pos m)) |>.operations n) ∧
     ∀ (i : ℕ) (hi : i + 1 < m),
       let k := (body default default).localLength;
-      let acc := (body default xs[i]).output (n + i*k);
-      env.UsesLocalWitnessesCompleteness (n + (i + 1)*k) (body acc xs[i + 1] |>.operations (n + (i + 1)*k)) := by
+      let acc := (body default xs[i]).output (n + i * k);
+      env.UsesLocalWitnessesCompleteness (n + (i + 1) * k) (body acc xs[i + 1] |>.operations (n + (i + 1) * k)) := by
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
      let acc := (body default xs[i]).output (n + i*k);
      env.UsesLocalWitnessesCompleteness (n + (i + 1)*k) (body acc xs[i + 1] |>.operations (n + (i + 1)*k)) := by
```

File: Clean/Circuit/Loops.lean [hunk 32]
```diff
@@ -599,10 +599,10 @@ variable {env : Environment F} {m n : ℕ} [Inhabited β]
 @[circuit_norm ↓]
 lemma foldlRange.localLength_eq :
     (foldlRange m init body constant).localLength n =
-      if h : m > 0 then m * (body default ⟨0, h⟩).localLength else 0 := by
+      if h : m > 0 then m*(body default ⟨0, h⟩).localLength else 0 := by
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
      if h : m > 0 then m * (body default ⟨0, h⟩).localLength else 0 := by
```

File: Clean/Circuit/Loops.lean [hunk 33]
```diff
@@ -620,7 +620,7 @@ lemma foldlRange.forAll :
   Operations.forAll n prop (foldlRange m init body constant |>.operations n) ↔
     ∀ i : Fin m,
       body (FoldlM.foldlAcc n (Vector.finRange m) body init i) i
-      |>.forAll (n + i * (body default i).localLength) prop := by
+      |>.forAll (n + i*(body default i).localLength) prop := by
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
      |>.forAll (n + i * (body default i).localLength) prop := by
```

File: Clean/Circuit/Loops.lean [hunk 34]
```diff
@@ -631,23 +631,23 @@ lemma foldlRange.soundness :
   ConstraintsHold.Soundness env (foldlRange m init body constant |>.operations n) ↔
     ∀ i : Fin m,
     ConstraintsHold.Soundness env (body (FoldlM.foldlAcc n (Vector.finRange m) body init i) i
-    |>.operations (n + i * (body default i).localLength)) := by
+    |>.operations (n + i*(body default i).localLength)) := by
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
    |>.operations (n + i * (body default i).localLength)) := by
```

File: Clean/Circuit/Loops.lean [hunk 35]
```diff
@@ -631,23 +631,23 @@ lemma foldlRange.soundness :
...
   simp only [ConstraintsHold.soundness_iff_forAll', foldlRange.forAll]
 
 @[circuit_norm ↓]
 lemma foldlRange.completeness :
   ConstraintsHold.Completeness env (foldlRange m init body constant |>.operations n) ↔
     ∀ i : Fin m,
     ConstraintsHold.Completeness env (body (FoldlM.foldlAcc n (Vector.finRange m) body init i) i
-    |>.operations (n + i * (body default i).localLength)) := by
+    |>.operations (n + i*(body default i).localLength)) := by
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
    |>.operations (n + i * (body default i).localLength)) := by
```

File: Clean/Circuit/Loops.lean [hunk 36]
```diff
@@ -631,23 +631,23 @@ lemma foldlRange.soundness :
...
   simp only [ConstraintsHold.completeness_iff_forAll', foldlRange.forAll]
 
 @[circuit_norm ↓]
 lemma foldlRange.usesLocalWitnesses :
   env.UsesLocalWitnessesCompleteness n (foldlRange m init body constant |>.operations n) ↔
     ∀ i : Fin m,
-      env.UsesLocalWitnessesCompleteness (n + i * (body default i).localLength) (body (FoldlM.foldlAcc n (Vector.finRange m) body init i) i
-      |>.operations (n + i * (body default i).localLength)) := by
+      env.UsesLocalWitnessesCompleteness (n + i*(body default i).localLength) (body (FoldlM.foldlAcc n (Vector.finRange m) body init i) i
+      |>.operations (n + i*(body default i).localLength)) := by
```
Comment (pirapira) [inline Clean/Circuit/Loops.lean]:
```suggestion
      env.UsesLocalWitnessesCompleteness (n + i * (body default i).localLength) (body (FoldlM.foldlAcc n (Vector.finRange m) body init i) i
      |>.operations (n + i * (body default i).localLength)) := by
```

**Review by pirapira — COMMENTED** [review]
Revert questionable changes.

File: Clean/Circuit/Provable.lean [hunk 37]
```diff
@@ -558,46 +558,46 @@ def ProvablePair.toElements {α β: TypeMap} [ProvableType α] [ProvableType β]
...
   simp only [eval, toVars, toElements, fromElements, Vector.map_append]
   rw [Vector.cast_take_append_of_eq_length, Vector.cast_drop_append_of_eq_length]
 
 -- Specialized lemmas for Expression F to handle type inference issues
 @[circuit_norm ↓ high]
-theorem eval_pair_left_expr {β: TypeMap} [ProvableType β] (env : Environment F)
+theorem eval_pair_left_expr {β : TypeMap} [ProvableType β] (env : Environment F)
   (a : Expression F) (b : Var β F) :
-    eval (α:=ProvablePair field β) env (a, b) = (Expression.eval env a, eval env b) :=
+    eval (α := ProvablePair field β) env (a, b) = (Expression.eval env a, eval env b) :=
```
Comment (pirapira) [inline Clean/Circuit/Provable.lean]:
```suggestion
    eval (α:=ProvablePair field β) env (a, b) = (Expression.eval env a, eval env b) :=
```

File: Clean/Circuit/Provable.lean [hunk 38]
```diff
@@ -558,46 +558,46 @@ def ProvablePair.toElements {α β: TypeMap} [ProvableType α] [ProvableType β]
...
   eval_pair (α := field) env a b
 
 @[circuit_norm ↓ high]
-theorem eval_pair_right_expr {α: TypeMap} [ProvableType α] (env : Environment F)
+theorem eval_pair_right_expr {α : TypeMap} [ProvableType α] (env : Environment F)
   (a : Var α F) (b : Expression F) :
-    eval (α:=ProvablePair α field) env (a, b) = (eval env a, Expression.eval env b) :=
+    eval (α := ProvablePair α field) env (a, b) = (eval env a, Expression.eval env b) :=
```
Comment (pirapira) [inline Clean/Circuit/Provable.lean]:
```suggestion
    eval (α:=ProvablePair α field) env (a, b) = (eval env a, Expression.eval env b) :=
```

File: Clean/Circuit/Provable.lean [hunk 39]
```diff
@@ -558,46 +558,46 @@ def ProvablePair.toElements {α β: TypeMap} [ProvableType α] [ProvableType β]
...
   eval_pair (β := field) env a b
 
 @[circuit_norm ↓ high]
 theorem eval_pair_both_expr (env : Environment F)
   (a b : Expression F) :
-    eval (α:=ProvablePair field field) env (a, b) = (Expression.eval env a, Expression.eval env b) :=
+    eval (α := ProvablePair field field) env (a, b) = (Expression.eval env a, Expression.eval env b) :=
```
Comment (pirapira) [inline Clean/Circuit/Provable.lean]:
```suggestion
    eval (α:=ProvablePair field field) env (a, b) = (Expression.eval env a, Expression.eval env b) :=
```

File: Clean/Circuit/Provable.lean [hunk 40]
```diff
@@ -558,46 +558,46 @@ def ProvablePair.toElements {α β: TypeMap} [ProvableType α] [ProvableType β]
...
   eval_pair (α := field) (β := field) env a b
 
 -- Specialized lemmas for Vector (Expression F) to handle type inference issues with vectors
 @[circuit_norm ↓ high]
-theorem eval_pair_left_vector_expr {n : ℕ} {β: TypeMap} [ProvableType β] (env : Environment F)
+theorem eval_pair_left_vector_expr {n : ℕ} {β : TypeMap} [ProvableType β] (env : Environment F)
   (a : Vector (Expression F) n) (b : Var β F) :
-    eval (α:=ProvablePair (fields n) β) env (a, b) = (eval env a, eval env b) :=
+    eval (α := ProvablePair (fields n) β) env (a, b) = (eval env a, eval env b) :=
```
Comment (pirapira) [inline Clean/Circuit/Provable.lean]:
```suggestion
    eval (α:=ProvablePair (fields n) β) env (a, b) = (eval env a, eval env b) :=
```

File: Clean/Circuit/Provable.lean [hunk 41]
```diff
@@ -558,46 +558,46 @@ def ProvablePair.toElements {α β: TypeMap} [ProvableType α] [ProvableType β]
...
   eval_pair (α := fields n) env a b
 
 @[circuit_norm ↓ high]
-theorem eval_pair_right_vector_expr {n : ℕ} {α: TypeMap} [ProvableType α] (env : Environment F)
+theorem eval_pair_right_vector_expr {n : ℕ} {α : TypeMap} [ProvableType α] (env : Environment F)
   (a : Var α F) (b : Vector (Expression F) n) :
-    eval (α:=ProvablePair α (fields n)) env (a, b) = (eval env a, eval env b) :=
+    eval (α := ProvablePair α (fields n)) env (a, b) = (eval env a, eval env b) :=
```
Comment (pirapira) [inline Clean/Circuit/Provable.lean]:
```suggestion
    eval (α:=ProvablePair α (fields n)) env (a, b) = (eval env a, eval env b) :=
```

File: Clean/Circuit/Provable.lean [hunk 42]
```diff
@@ -558,46 +558,46 @@ def ProvablePair.toElements {α β: TypeMap} [ProvableType α] [ProvableType β]
...
   eval_pair (β := fields n) env a b
 
 @[circuit_norm ↓ high]
 theorem eval_pair_both_vector_expr {n m : ℕ} (env : Environment F)
   (a : Vector (Expression F) n) (b : Vector (Expression F) m) :
-    eval (α:=ProvablePair (fields n) (fields m)) env (a, b) = (eval env a, eval env b) :=
+    eval (α := ProvablePair (fields n) (fields m)) env (a, b) = (eval env a, eval env b) :=
```
Comment (pirapira) [inline Clean/Circuit/Provable.lean]:
```suggestion
    eval (α:=ProvablePair (fields n) (fields m)) env (a, b) = (eval env a, eval env b) :=
```

File: Clean/Circuit/Theorems.lean [hunk 43]
```diff
@@ -491,8 +491,8 @@ lemma getElem?_dynamicWitnesses_of_lt {ops: List (FlatOperation F)} {acc : List
     have : i < (acc ++ op.dynamicWitness acc).length := by rw [List.length_append]; linarith
     rw [List.foldl_cons, ih this, List.getElem_append_left]
 
-lemma getElem?_dynamicWitnesses_cons_right {op : FlatOperation F} {ops: List (FlatOperation F)} {init : List F} {i : ℕ} (hi : i < op.singleLocalLength) :
-    (dynamicWitnesses (op :: ops) init)[init.length + i]?.getD 0 = (op.dynamicWitness init)[i]'(dynamicWitness_length (F:=F) ▸ hi) := by
+lemma getElem?_dynamicWitnesses_cons_right {op : FlatOperation F} {ops : List (FlatOperation F)} {init : List F} {i : ℕ} (hi : i < op.singleLocalLength) :
+    (dynamicWitnesses (op :: ops) init)[init.length + i]?.getD 0 = (op.dynamicWitness init)[i]'(dynamicWitness_length (F := F) ▸ hi) := by
```
Comment (pirapira) [inline Clean/Circuit/Theorems.lean]:
```suggestion
    (dynamicWitnesses (op :: ops) init)[init.length + i]?.getD 0 = (op.dynamicWitness init)[i]'(dynamicWitness_length (F:=F) ▸ hi) := by
```

File: Clean/Examples/Add32Explicit.lean [hunk 44]
```diff
@@ -7,10 +7,10 @@ import Clean.Gadgets.Boolean
 open Gadgets.Addition32Full (Inputs)
 
 -- `infer_explicit_circuit(s)` seem to work for all circuits
-instance explicit : ExplicitCircuits (Gadgets.Addition32Full.main (p:=pBabybear)) := by
+instance explicit : ExplicitCircuits (Gadgets.Addition32Full.main (p := pBabybear)) := by
```
Comment (pirapira) [inline Clean/Examples/Add32Explicit.lean]:
```suggestion
instance explicit : ExplicitCircuits (Gadgets.Addition32Full.main (p:=pBabybear)) := by
```

File: Clean/Examples/Add32Explicit.lean [hunk 45]
```diff
@@ -7,10 +7,10 @@ import Clean.Gadgets.Boolean
...
   infer_explicit_circuits
 
-@[reducible] def circuit32 input := Gadgets.Addition32Full.main (p:=pBabybear) input
+@[reducible] def circuit32 input := Gadgets.Addition32Full.main (p := pBabybear) input
```
Comment (pirapira) [inline Clean/Examples/Add32Explicit.lean]:
```suggestion
@[reducible] def circuit32 input := Gadgets.Addition32Full.main (p:=pBabybear) input
```

File: Clean/Examples/AddOperations.lean [hunk 46]
```diff
@@ -13,7 +13,7 @@ def circuit := do
 
 -- #eval circuit.witnesses
 
--- #eval Gadgets.Addition32Full.circuit (p:=pBabybear) |>.localLength default
+-- #eval Gadgets.Addition32Full.circuit (p := pBabybear) |>.localLength default
```
Comment (pirapira) [inline Clean/Examples/AddOperations.lean]:
```suggestion
-- #eval Gadgets.Addition32Full.circuit (p:=pBabybear) |>.localLength default
```

File: Clean/Examples/AddOperations.lean [hunk 47]
```diff
@@ -13,7 +13,7 @@ def circuit := do
...
 
--- #eval (do Gadgets.Addition32Full.add32_full (p:=pBabybear) (← default)).operations
+-- #eval (do Gadgets.Addition32Full.add32_full (p := pBabybear) (← default)).operations
```
Comment (pirapira) [inline Clean/Examples/AddOperations.lean]:
```suggestion
-- #eval (do Gadgets.Addition32Full.add32_full (p:=pBabybear) (← default)).operations
```

File: Clean/Examples/ToJson.lean [hunk 48]
```diff
@@ -4,11 +4,11 @@ import Clean.Tables.Fibonacci32Inductive
 import Clean.Table.Json
 
 -- serialize constraints of the Fibonacci8 table to JSON
-def fib8json := Lean.toJson (Tables.Fibonacci8Table.fibTable (p:= pBabybear))
+def fib8json := Lean.toJson (Tables.Fibonacci8Table.fibTable (p := pBabybear))
```
Comment (pirapira) [inline Clean/Examples/ToJson.lean]:
```suggestion
def fib8json := Lean.toJson (Tables.Fibonacci8Table.fibTable (p:=pBabybear))
```

File: Clean/Examples/ToJson.lean [hunk 49]
```diff
@@ -4,11 +4,11 @@ import Clean.Tables.Fibonacci32Inductive
...
 -- #eval fib8json
 
 -- serialize constraints of the Fibonacci32 table to JSON
-def fib32json := Lean.toJson ((Tables.Fibonacci32Inductive.table (p:= pBabybear)).tableConstraints
-  { x := U32.fromByte 0, y:= U32.fromByte 1 }
-  { x := U32.fromByte 0, y:= U32.fromByte 0 })
+def fib32json := Lean.toJson ((Tables.Fibonacci32Inductive.table (p := pBabybear)).tableConstraints
```
Comment (pirapira) [inline Clean/Examples/ToJson.lean]:
```suggestion
def fib32json := Lean.toJson ((Tables.Fibonacci32Inductive.table (p:=pBabybear)).tableConstraints
```

File: Clean/Gadgets/Addition32/Addition32.lean [hunk 50]
```diff
@@ -26,11 +26,11 @@ def Assumptions (input : Inputs (F p)) :=
   let ⟨x, y⟩ := input
   x.Normalized ∧ y.Normalized
 
-def Spec (input : Inputs (F p)) (z: U32 (F p)) :=
+def Spec (input : Inputs (F p)) (z : U32 (F p)) :=
   let ⟨x, y⟩ := input
   z.value = (x.value + y.value) % 2^32 ∧ z.Normalized
 
--- def c := main (p:=p_babybear) default
+-- def c := main (p := p_babybear) default
```
Comment (pirapira) [inline Clean/Gadgets/Addition32/Addition32.lean]:
```suggestion
-- def c := main (p:=p_babybear) default
```

File: Clean/Gadgets/Addition32/Addition32Full.lean [hunk 51]
```diff
@@ -52,8 +52,8 @@ def Spec (input : Inputs (F p)) (out: Outputs (F p)) :=
 /--
 Elaborated circuit data can be found as follows:
 ```
-#eval (main (p:=p_babybear) default).localLength
-#eval (main (p:=p_babybear) default).output
+#eval (main (p := p_babybear) default).localLength
+#eval (main (p := p_babybear) default).output
```
Comment (pirapira) [inline Clean/Gadgets/Addition32/Addition32Full.lean]:
```suggestion
#eval (main (p:=p_babybear) default).localLength
#eval (main (p:=p_babybear) default).output
```

File: Clean/Gadgets/Addition32/Theorems.lean [hunk 52]
```diff
@@ -96,19 +96,19 @@ theorem add32_soundness {x0 x1 x2 x3 y0 y1 y2 y3 carry_in c0 c1 c2 c3 z0 z1 z2 z
...
 
   -- add up all the equations
-  set z := z0 + z1*256 + z2*256^2 + z3*256^3
-  set x := x0 + x1*256 + x2*256^2 + x3*256^3
-  set y := y0 + y1*256 + y2*256^2 + y3*256^3
-  let lhs := z + c3*2^32
+  set z := z0 + z1 * 256 + z2 * 256^2 + z3 * 256^3
+  set x := x0 + x1 * 256 + x2 * 256^2 + x3 * 256^3
+  set y := y0 + y1 * 256 + y2 * 256^2 + y3 * 256^3
+  let lhs := z + c3 * 2^32
```
Comment (pirapira) [inline Clean/Gadgets/Addition32/Theorems.lean]:
```suggestion
  set z := z0 + z1*256 + z2*256^2 + z3*256^3
  set x := x0 + x1*256 + x2*256^2 + x3*256^3
  set y := y0 + y1*256 + y2*256^2 + y3*256^3
  let lhs := z + c3*2^32
```

File: Clean/Gadgets/Addition32/Theorems.lean [hunk 53]
```diff
@@ -96,19 +96,19 @@ theorem add32_soundness {x0 x1 x2 x3 y0 y1 y2 y3 carry_in c0 c1 c2 c3 z0 z1 z2 z
...
   let rhs₀ := x0 + y0 + carry_in + -1 * z0 + -1 * (c0 * 256) -- h0 expression
   let rhs₁ := x1 + y1 + c0 + -1 * z1 + -1 * (c1 * 256) -- h1 expression
   let rhs₂ := x2 + y2 + c1 + -1 * z2 + -1 * (c2 * 256) -- h2 expression
   let rhs₃ := x3 + y3 + c2 + -1 * z3 + -1 * (c3 * 256) -- h3 expression
 
-  have h_add := calc z + c3*2^32
+  have h_add := calc z + c3 * 2^32
```
Comment (pirapira) [inline Clean/Gadgets/Addition32/Theorems.lean]:
```suggestion
  have h_add := calc z + c3*2^32
```

File: Clean/Gadgets/Addition32/Theorems.lean [hunk 54]
```diff
@@ -96,19 +96,19 @@ theorem add32_soundness {x0 x1 x2 x3 y0 y1 y2 y3 carry_in c0 c1 c2 c3 z0 z1 z2 z
...
     -- substitute equations
-    _ = lhs + 0 + 256*0 + 256^2*0 + 256^3*0 := by ring
-    _ = lhs + rhs₀ + 256*rhs₁ + 256^2*rhs₂ + 256^3*rhs₃ := by
+    _ = lhs + 0 + 256 * 0 + 256^2 * 0 + 256^3 * 0 := by ring
+    _ = lhs + rhs₀ + 256 * rhs₁ + 256^2 * rhs₂ + 256^3 * rhs₃ := by
```
Comment (pirapira) [inline Clean/Gadgets/Addition32/Theorems.lean]:
```suggestion
    _ = lhs + 0 + 256*0 + 256^2*0 + 256^3*0 := by ring
    _ = lhs + rhs₀ + 256*rhs₁ + 256^2*rhs₂ + 256^3*rhs₃ := by
```

File: Clean/Gadgets/Addition8/Theorems.lean [hunk 55]
```diff
@@ -182,7 +182,7 @@ theorem completeness_add [p_neq_zero : NeZero p] (x y carry_in: F p) :
     have obv : (256 : F p).val = 256 % p := by apply ZMod.val_natCast
     have h : T / 256 * (ZMod.val (256 : F p)) + T % 256 = T := by
       rw [mul_comm, obv]
-      rw [(Nat.mod_eq_iff_lt (m:=256) p_neq_zero.out).mpr
+      rw [(Nat.mod_eq_iff_lt (m := 256) p_neq_zero.out).mpr
```
Comment (pirapira) [inline Clean/Gadgets/Addition8/Theorems.lean]:
```suggestion
      rw [(Nat.mod_eq_iff_lt (m:=256) p_neq_zero.out).mpr
```

**Review by pirapira — COMMENTED** [review]
Questionable changes.

File: Clean/Gadgets/And/And64.lean [hunk 56]
```diff
@@ -59,10 +59,10 @@ theorem soundness_to_u64 {x y z : U64 (F p)}
...
   have z_norm : z.Normalized := by
     simp only [U64.Normalized, h_eq]
-    exact ⟨ Nat.and_lt_two_pow (n:=8) _ hy0, Nat.and_lt_two_pow (n:=8) _ hy1,
-      Nat.and_lt_two_pow (n:=8) _ hy2, Nat.and_lt_two_pow (n:=8) _ hy3,
-      Nat.and_lt_two_pow (n:=8) _ hy4, Nat.and_lt_two_pow (n:=8) _ hy5,
-      Nat.and_lt_two_pow (n:=8) _ hy6, Nat.and_lt_two_pow (n:=8) _ hy7 ⟩
+    exact ⟨ Nat.and_lt_two_pow (n := 8) _ hy0, Nat.and_lt_two_pow (n := 8) _ hy1,
+      Nat.and_lt_two_pow (n := 8) _ hy2, Nat.and_lt_two_pow (n := 8) _ hy3,
+      Nat.and_lt_two_pow (n := 8) _ hy4, Nat.and_lt_two_pow (n := 8) _ hy5,
+      Nat.and_lt_two_pow (n := 8) _ hy6, Nat.and_lt_two_pow (n := 8) _ hy7 ⟩
```
Comment (pirapira) [inline Clean/Gadgets/And/And64.lean]:
```suggestion
    exact ⟨ Nat.and_lt_two_pow (n:=8) _ hy0, Nat.and_lt_two_pow (n:=8) _ hy1,
      Nat.and_lt_two_pow (n:=8) _ hy2, Nat.and_lt_two_pow (n:=8) _ hy3,
      Nat.and_lt_two_pow (n:=8) _ hy4, Nat.and_lt_two_pow (n:=8) _ hy5,
      Nat.and_lt_two_pow (n:=8) _ hy6, Nat.and_lt_two_pow (n:=8) _ hy7 ⟩
```

File: Clean/Gadgets/And/And8.lean [hunk 57]
```diff
@@ -52,8 +52,8 @@ theorem and_times_two_add_xor {x y : ℕ} (hx : x < 256) (hy : y < 256) : 2 * (x
     simp only [x16, y16] at h_u16
     simpa using h_u16
 
-  have h_and_byte : x &&& y < 256 := Nat.and_lt_two_pow (n:=8) x hy
-  have h_xor_byte : x ^^^ y < 256 := Nat.xor_lt_two_pow (n:=8) hx hy
+  have h_and_byte : x &&& y < 256 := Nat.and_lt_two_pow (n := 8) x hy
+  have h_xor_byte : x ^^^ y < 256 := Nat.xor_lt_two_pow (n := 8) hx hy
```
Comment (pirapira) [inline Clean/Gadgets/And/And8.lean]:
```suggestion
  have h_and_byte : x &&& y < 256 := Nat.and_lt_two_pow (n:=8) x hy
  have h_xor_byte : x ^^^ y < 256 := Nat.xor_lt_two_pow (n:=8) hx hy
```

File: Clean/Gadgets/And/And8.lean [hunk 58]
```diff
@@ -119,7 +119,7 @@ theorem completeness : Completeness (F p) elaborated Assumptions := by
   let z := x + y + -(2 * w)
 
   -- now it's pretty much the soundness proof in reverse
-  have and_byte : x.val &&& y.val < 256 := Nat.and_lt_two_pow (n:=8) x.val hy_byte
+  have and_byte : x.val &&& y.val < 256 := Nat.and_lt_two_pow (n := 8) x.val hy_byte
```
Comment (pirapira) [inline Clean/Gadgets/And/And8.lean]:
```suggestion
  have and_byte : x.val &&& y.val < 256 := Nat.and_lt_two_pow (n:=8) x.val hy_byte
```

File: Clean/Gadgets/Keccak/AbsorbBlock.lean [hunk 59]
```diff
@@ -54,7 +54,7 @@ theorem soundness : Soundness (F p) elaborated Assumptions Spec := by
 
   -- reduce goal to characterizing absorb step
   set state_after_absorb : Var KeccakState (F p) :=
-    (Vector.mapFinRange 17 fun i => varFromOffset (F:=F p) U64 (i0 + i.val * 8)) ++
+    (Vector.mapFinRange 17 fun i => varFromOffset (F := F p) U64 (i0 + i.val * 8)) ++
```
Comment (pirapira) [inline Clean/Gadgets/Keccak/AbsorbBlock.lean]:
```suggestion
    (Vector.mapFinRange 17 fun i => varFromOffset (F:=F p) U64 (i0 + i.val * 8)) ++
```

File: Clean/Gadgets/Keccak/AbsorbBlock.lean [hunk 60]
```diff
@@ -94,7 +94,7 @@ theorem completeness : Completeness (F p) elaborated Assumptions := by
...
```
Comment (pirapira) [inline Clean/Gadgets/Keccak/AbsorbBlock.lean]:
```suggestion
    (Vector.mapFinRange 17 fun i => varFromOffset (F:=F p) U64 (i0 + i.val * 8)) ++
```

File: Clean/Gadgets/Keccak/Chi.lean [hunk 61]
```diff
@@ -27,7 +27,7 @@ def Spec (state : KeccakState (F p)) (out_state : KeccakState (F p)) :=
 instance elaborated : ElaboratedCircuit (F p) KeccakState KeccakState where
   main
   localLength _ := 400
-  output _ i0 := Vector.mapRange 25 fun i => varFromOffset U64 (i0 + i*16 + 8)
+  output _ i0 := Vector.mapRange 25 fun i => varFromOffset U64 (i0 + i * 16 + 8)
```
Comment (pirapira) [inline Clean/Gadgets/Keccak/Chi.lean]:
```suggestion
  output _ i0 := Vector.mapRange 25 fun i => varFromOffset U64 (i0 + i*16 + 8)
```

File: Clean/Gadgets/Keccak/KeccakRound.lean [hunk 62]
```diff
@@ -26,7 +26,7 @@ def Spec (rc : UInt64) (state : KeccakState (F p)) (out_state : KeccakState (F p
 instance elaborated (rc : UInt64) : ElaboratedCircuit (F p) KeccakState KeccakState where
   main := main rc
   localLength _ := 1288
-  output _ i0 := (Vector.mapRange 25 fun i => varFromOffset U64 (i0 + i*16 + 888) ).set 0 (varFromOffset U64 (i0 + 1280))
+  output _ i0 := (Vector.mapRange 25 fun i => varFromOffset U64 (i0 + i * 16 + 888) ).set 0 (varFromOffset U64 (i0 + 1280))
```
Comment (pirapira) [inline Clean/Gadgets/Keccak/KeccakRound.lean]:
```suggestion
  output _ i0 := (Vector.mapRange 25 fun i => varFromOffset U64 (i0 + i*16 + 888) ).set 0 (varFromOffset U64 (i0 + 1280))
```

File: Clean/Gadgets/Keccak/ThetaC.lean [hunk 63]
```diff
@@ -11,15 +11,15 @@ variable {p : ℕ} [Fact p.Prime] [Fact (p > 512)]
...
 def main (state : Var KeccakState (F p)) : Circuit (F p) (Var KeccakRow (F p)) :=
   .mapFinRange 5 fun i => do
-    let c ← Xor64.circuit ⟨state[5*i.val], state[5*i.val + 1]⟩
-    let c ← Xor64.circuit ⟨c, state[5*i.val + 2]⟩
-    let c ← Xor64.circuit ⟨c, state[5*i.val + 3]⟩
-    let c ← Xor64.circuit ⟨c, state[5*i.val + 4]⟩
+    let c ← Xor64.circuit ⟨state[5 * i.val], state[5 * i.val + 1]⟩
+    let c ← Xor64.circuit ⟨c, state[5 * i.val + 2]⟩
+    let c ← Xor64.circuit ⟨c, state[5 * i.val + 3]⟩
+    let c ← Xor64.circuit ⟨c, state[5 * i.val + 4]⟩
```
Comment (pirapira) [inline Clean/Gadgets/Keccak/ThetaC.lean]:
```suggestion
    let c ← Xor64.circuit ⟨state[5*i.val], state[5*i.val + 1]⟩
    let c ← Xor64.circuit ⟨c, state[5*i.val + 2]⟩
    let c ← Xor64.circuit ⟨c, state[5*i.val + 3]⟩
    let c ← Xor64.circuit ⟨c, state[5*i.val + 4]⟩
```

File: Clean/Gadgets/Keccak/ThetaC.lean [hunk 64]
```diff
@@ -33,7 +33,7 @@ instance elaborated : ElaboratedCircuit (F p) KeccakState KeccakRow where
 -- rewrite thetaC as a loop
 lemma thetaC_loop (state : Vector ℕ 25) :
     Specs.Keccak256.thetaC state = .mapFinRange 5 fun i =>
-      state[5*i.val] ^^^ state[5*i.val + 1] ^^^ state[5*i.val + 2] ^^^ state[5*i.val + 3] ^^^ state[5*i.val + 4] := by
+      state[5 * i.val] ^^^ state[5 * i.val + 1] ^^^ state[5 * i.val + 2] ^^^ state[5 * i.val + 3] ^^^ state[5 * i.val + 4] := by
```
Comment (pirapira) [inline Clean/Gadgets/Keccak/ThetaC.lean]:
```suggestion
      state[5*i.val] ^^^ state[5*i.val + 1] ^^^ state[5*i.val + 2] ^^^ state[5*i.val + 3] ^^^ state[5*i.val + 4] := by
```

File: Clean/Gadgets/Rotation32/Rotation32.lean [hunk 65]
```diff
@@ -51,7 +51,7 @@ theorem soundness (offset : Fin 32) : Soundness (F p) (circuit := elaborated off
   -- abstract away intermediate U32
   let byte_offset : ℕ := offset.val / 8
   let bit_offset : ℕ := (offset % 8).val
-  set byte_rotated := eval env (ElaboratedCircuit.output (self:=Rotation32Bytes.elaborated byte_offset) (x_var : Var U32 _) i0)
+  set byte_rotated := eval env (ElaboratedCircuit.output (self := Rotation32Bytes.elaborated byte_offset) (x_var : Var U32 _) i0)
```
Comment (pirapira) [inline Clean/Gadgets/Rotation32/Rotation32.lean]:
```suggestion
  set byte_rotated := eval env (ElaboratedCircuit.output (self:=Rotation32Bytes.elaborated byte_offset) (x_var : Var U32 _) i0)
```

File: Clean/Gadgets/Rotation32/Rotation32Bits.lean [hunk 66]
```diff
@@ -26,19 +26,19 @@ def main (offset : Fin 8) (x : U32 (Expression (F p))) : Circuit (F p) (Var U32
...
 
-def Spec (offset : Fin 8) (x : U32 (F p)) (y: U32 (F p)) :=
+def Spec (offset : Fin 8) (x : U32 (F p)) (y : U32 (F p)) :=
   y.value = rotRight32 x.value offset.val
   ∧ y.Normalized
 
 def output (offset : Fin 8) (i0 : ℕ) : U32 (Expression (F p)) :=
   U32.fromLimbs (.ofFn fun ⟨i,_⟩ =>
-    (var ⟨i0 + i*2 + 1⟩) + var ⟨i0 + (i + 1) % 4 * 2⟩ * .const ((2^(8 - offset.val) : ℕ) : F p))
+    (var ⟨i0 + i * 2 + 1⟩) + var ⟨i0 + (i + 1) % 4 * 2⟩ * .const ((2^(8-offset.val) : ℕ) : F p))
```
Comment (pirapira) [inline Clean/Gadgets/Rotation32/Rotation32Bits.lean]:
```suggestion
    (var ⟨i0 + i*2 + 1⟩) + var ⟨i0 + (i + 1) % 4 * 2⟩ * .const ((2^(8-offset.val) : ℕ) : F p))
```

File: Clean/Gadgets/Rotation32/Rotation32Bits.lean [hunk 67]
```diff
@@ -89,7 +89,7 @@ theorem soundness (offset : Fin 8) : Soundness (F p) (elaborated offset) Assumpt
     have ⟨⟨_, high_eq⟩, ⟨_, high_lt⟩⟩ := h_holds i hi
     have ⟨⟨next_low_eq, _⟩, ⟨next_low_lt, _⟩⟩ := h_holds ((i + 1) % 4) (Nat.mod_lt _ (by norm_num))
     have next_low_lt' : next_low.val < 2^(8 - (8 - o)) := by rw [Nat.sub_sub_self offset.is_le']; exact next_low_lt
-    have ⟨lt, eq⟩ := byteDecomposition_lt (8-o) neg_offset_le high_lt next_low_lt'
+    have ⟨lt, eq⟩ := byteDecomposition_lt (8 - o) neg_offset_le high_lt next_low_lt'
```
Comment (pirapira) [inline Clean/Gadgets/Rotation32/Rotation32Bits.lean]:
```suggestion
    have ⟨lt, eq⟩ := byteDecomposition_lt (8-o) neg_offset_le high_lt next_low_lt'
```

File: Clean/Gadgets/Rotation64/Rotation64.lean [hunk 68]
```diff
@@ -52,7 +52,7 @@ theorem soundness (offset : Fin 64) : Soundness (F p) (circuit := elaborated off
   -- abstract away intermediate U64
   let byte_offset : ℕ := offset.val / 8
   let bit_offset : ℕ := (offset % 8).val
-  set byte_rotated := eval env (ElaboratedCircuit.output (self:=Rotation64Bytes.elaborated byte_offset) (x_var : Var U64 _) i0)
+  set byte_rotated := eval env (ElaboratedCircuit.output (self := Rotation64Bytes.elaborated byte_offset) (x_var : Var U64 _) i0)
```
Comment (pirapira) [inline Clean/Gadgets/Rotation64/Rotation64.lean]:
```suggestion
  set byte_rotated := eval env (ElaboratedCircuit.output (self:=Rotation64Bytes.elaborated byte_offset) (x_var : Var U64 _) i0)
```

File: Clean/Gadgets/Xor/ByteXorTable.lean [hunk 69]
```diff
@@ -7,7 +7,7 @@ variable {p : ℕ} [Fact p.Prime] [Fact (p > 512)]
 
 def ByteXorTable : Table (F p) fieldTriple := .fromStatic {
   name := "ByteXor"
-  length := 256*256
+  length := 256 * 256
```
Comment (pirapira) [inline Clean/Gadgets/Xor/ByteXorTable.lean]:
```suggestion
  length := 256*256
```

File: Clean/Gadgets/Xor/ByteXorTable.lean [hunk 70]
```diff
@@ -34,7 +34,7 @@ def ByteXorTable : Table (F p) fieldTriple := .fromStatic {
       repeat rw [fromByte, FieldUtils.val_of_natToField_eq]
       simp only [HXor.hXor, Xor.xor, Fin.xor]
       rw [Nat.mod_eq_iff_lt (by norm_num)]
-      apply Nat.xor_lt_two_pow (n:=8)
+      apply Nat.xor_lt_two_pow (n := 8)
```
Comment (pirapira) [inline Clean/Gadgets/Xor/ByteXorTable.lean]:
```suggestion
      apply Nat.xor_lt_two_pow (n:=8)
```

File: Clean/Gadgets/Xor/Xor32.lean [hunk 71]
```diff
@@ -66,8 +66,8 @@ theorem soundness_to_u32 {x y z : U32 (F p)}
 
   have z_norm : z.Normalized := by
     simp only [U32.Normalized, h_eq]
-    exact ⟨ Nat.xor_lt_two_pow (n:=8) hx0 hy0, Nat.xor_lt_two_pow (n:=8) hx1 hy1,
-      Nat.xor_lt_two_pow (n:=8) hx2 hy2, Nat.xor_lt_two_pow (n:=8) hx3 hy3 ⟩
+    exact ⟨ Nat.xor_lt_two_pow (n := 8) hx0 hy0, Nat.xor_lt_two_pow (n := 8) hx1 hy1,
+      Nat.xor_lt_two_pow (n := 8) hx2 hy2, Nat.xor_lt_two_pow (n := 8) hx3 hy3 ⟩
```
Comment (pirapira) [inline Clean/Gadgets/Xor/Xor32.lean]:
```suggestion
    exact ⟨ Nat.xor_lt_two_pow (n:=8) hx0 hy0, Nat.xor_lt_two_pow (n:=8) hx1 hy1,
      Nat.xor_lt_two_pow (n:=8) hx2 hy2, Nat.xor_lt_two_pow (n:=8) hx3 hy3 ⟩
```

File: Clean/Gadgets/Xor/Xor32.lean [hunk 72]
```diff
@@ -96,7 +96,7 @@ theorem soundness : Soundness (F p) elaborated Assumptions Spec := by
 lemma xor_val {x y : F p} (hx : x.val < 256) (hy : y.val < 256) :
   (x.val ^^^ y.val : F p).val = x.val ^^^ y.val := by
   apply FieldUtils.val_lt_p
-  have h_byte : x.val ^^^ y.val < 256 := Nat.xor_lt_two_pow (n:=8) hx hy
+  have h_byte : x.val ^^^ y.val < 256 := Nat.xor_lt_two_pow (n := 8) hx hy
```
Comment (pirapira) [inline Clean/Gadgets/Xor/Xor32.lean]:
```suggestion
  have h_byte : x.val ^^^ y.val < 256 := Nat.xor_lt_two_pow (n:=8) hx hy
```

File: Clean/Gadgets/Xor/Xor64.lean [hunk 73]
```diff
@@ -78,10 +78,10 @@ theorem soundness_to_u64 {x y z : U64 (F p)}
...
   have z_norm : z.Normalized := by
     simp only [U64.Normalized, h_eq]
-    exact ⟨ Nat.xor_lt_two_pow (n:=8) hx0 hy0, Nat.xor_lt_two_pow (n:=8) hx1 hy1,
-      Nat.xor_lt_two_pow (n:=8) hx2 hy2, Nat.xor_lt_two_pow (n:=8) hx3 hy3,
-      Nat.xor_lt_two_pow (n:=8) hx4 hy4, Nat.xor_lt_two_pow (n:=8) hx5 hy5,
-      Nat.xor_lt_two_pow (n:=8) hx6 hy6, Nat.xor_lt_two_pow (n:=8) hx7 hy7 ⟩
+    exact ⟨ Nat.xor_lt_two_pow (n := 8) hx0 hy0, Nat.xor_lt_two_pow (n := 8) hx1 hy1,
+      Nat.xor_lt_two_pow (n := 8) hx2 hy2, Nat.xor_lt_two_pow (n := 8) hx3 hy3,
+      Nat.xor_lt_two_pow (n := 8) hx4 hy4, Nat.xor_lt_two_pow (n := 8) hx5 hy5,
+      Nat.xor_lt_two_pow (n := 8) hx6 hy6, Nat.xor_lt_two_pow (n := 8) hx7 hy7 ⟩
```
Comment (pirapira) [inline Clean/Gadgets/Xor/Xor64.lean]:
```suggestion
    exact ⟨ Nat.xor_lt_two_pow (n:=8) hx0 hy0, Nat.xor_lt_two_pow (n:=8) hx1 hy1,
      Nat.xor_lt_two_pow (n:=8) hx2 hy2, Nat.xor_lt_two_pow (n:=8) hx3 hy3,
      Nat.xor_lt_two_pow (n:=\8) hx4 hy4, Nat.xor_lt_two_pow (n:=8) hx5 hy5,
      Nat.xor_lt_two_pow (n:=8) hx6 hy6, Nat.xor_lt_two_pow (n:=8) hx7 hy7 ⟩
```

File: Clean/Gadgets/Xor/Xor64.lean [hunk 74]
```diff
@@ -110,7 +110,7 @@ theorem soundness : Soundness (F p) elaborated Assumptions Spec := by
 lemma xor_val {x y : F p} (hx : x.val < 256) (hy : y.val < 256) :
     (x.val ^^^ y.val : F p).val = x.val ^^^ y.val := by
   apply FieldUtils.val_lt_p
-  have h_byte : x.val ^^^ y.val < 256 := Nat.xor_lt_two_pow (n:=8) hx hy
+  have h_byte : x.val ^^^ y.val < 256 := Nat.xor_lt_two_pow (n := 8) hx hy
```
Comment (pirapira) [inline Clean/Gadgets/Xor/Xor64.lean]:
```suggestion
  have h_byte : x.val ^^^ y.val < 256 := Nat.xor_lt_two_pow (n:=8) hx hy
```

File: Clean/Types/U32.lean [hunk 75]
```diff
@@ -135,11 +135,11 @@ def valueU32 (x : U32 (F p)) (h : x.Normalized) : UInt32 :=
 
 lemma value_of_decomposedNat_of_small (x : ℕ) :
     x < 256^4 ->
-    (decomposeNat (p := p) x).value = x := by
+    (decomposeNat (p:=p) x).value = x := by
   intro hx
   simp only [value, decomposeNat]
   -- Need to show that ZMod.val of each component equals the component itself
-  have h (y : ℕ) : y < 256 → ZMod.val (n:=p) (y : ℕ) = y := by
+  have h (y : ℕ) : y < 256 → ZMod.val (n := p) (y : ℕ) = y := by
```
Comment (pirapira) [inline Clean/Types/U32.lean]:
```suggestion
  have h (y : ℕ) : y < 256 → ZMod.val (n:=p) (y : ℕ) = y := by
```

File: Clean/Types/U32.lean [hunk 76]
```diff
@@ -157,7 +157,7 @@ lemma value_of_decomposedNat_of_small (x : ℕ) :
 
 lemma fromUInt32_normalized (x : UInt32) : (fromUInt32 (p:=p) x).Normalized := by
   simp only [Normalized, fromUInt32, decomposeNat]
-  have h (x : ℕ) : ZMod.val (n:=p) (x % 256 : ℕ) < 256 := by
+  have h (x : ℕ) : ZMod.val (n := p) (x % 256 : ℕ) < 256 := by
```
Comment (pirapira) [inline Clean/Types/U32.lean]:
```suggestion
  have h (x : ℕ) : ZMod.val (n:=p) (x % 256 : ℕ) < 256 := by
```

File: Clean/Utils/Bits.lean [hunk 77]
```diff
@@ -206,13 +206,13 @@ theorem fieldToBits_injective (n : ℕ) {x y : F p} : x.val < 2^n → y.val < 2^
   by_cases hi : i < n
   · exact h_eq' i hi
   have : n ≤ i := by linarith
-  have : 2^n ≤ 2^i := Nat.pow_le_pow_of_le (a:=2) (by norm_num) this
+  have : 2^n ≤ 2^i := Nat.pow_le_pow_of_le (a := 2) (by norm_num) this
```
Comment (pirapira) [inline Clean/Utils/Bits.lean]:
```suggestion
  have : 2^n ≤ 2^i := Nat.pow_le_pow_of_le (a:=2) (by norm_num) this
```

File: Clean/Utils/Bits.lean [hunk 78]
```diff
@@ -206,13 +206,13 @@ theorem fieldToBits_injective (n : ℕ) {x y : F p} : x.val < 2^n → y.val < 2^
...
   replace hx : x.val < 2^i := by linarith
   replace hy : y.val < 2^i := by linarith
   rw [Nat.testBit_lt_two_pow hx, Nat.testBit_lt_two_pow hy]
 
 lemma val_natCast_toBits {n} {x : ℕ} :
-    Vector.map (ZMod.val ∘ Nat.cast (R:=F p)) (toBits n x) = toBits n x := by
+    Vector.map (ZMod.val ∘ Nat.cast (R := F p)) (toBits n x) = toBits n x := by
```
Comment (pirapira) [inline Clean/Utils/Bits.lean]:
```suggestion
    Vector.map (ZMod.val ∘ Nat.cast (R:=F p)) (toBits n x) = toBits n x := by
```

File: Clean/Utils/Bitwise.lean [hunk 79]
```diff
@@ -48,7 +48,7 @@ theorem xor_eq_add {x : ℕ} (n : ℕ) (hx : x < 2^n) (y : ℕ) : x + 2^n * y =
   · have : n ≤ i := by linarith
     replace hx : x < 2^i := by
       apply lt_of_lt_of_le hx
-      exact Nat.pow_le_pow_of_le (a:=2) (by norm_num) this
+      exact Nat.pow_le_pow_of_le (a := 2) (by norm_num) this
```
Comment (pirapira) [inline Clean/Utils/Bitwise.lean]:
```suggestion
      exact Nat.pow_le_pow_of_le (a:=2) (by norm_num) this
```

File: Clean/Utils/Bitwise.lean [hunk 80]
```diff
@@ -69,7 +69,7 @@ lemma and_mul_two_pow_lt {n : ℕ} {x : ℕ} (hx : x < 2^n) (y : ℕ) : x &&& 2^
...
```
Comment (pirapira) [inline Clean/Utils/Bitwise.lean]:
```suggestion
      exact Nat.pow_le_pow_of_le (a:=2) (by norm_num) this
```

File: Clean/Utils/Field.lean [hunk 81]
```diff
@@ -203,7 +203,7 @@ lemma two_val : (2 : F p).val = 2 :=
 
 omit p_prime in
 lemma two_pow_lt (n : ℕ) (hn : n ≤ 8) : 2^n < p := by
-  have h : 2^n ≤ 2^8 := Nat.pow_le_pow_of_le (a:=2) Nat.one_lt_ofNat hn
+  have h : 2^n ≤ 2^8 := Nat.pow_le_pow_of_le (a := 2) Nat.one_lt_ofNat hn
```
Comment (pirapira) [inline Clean/Utils/Field.lean]:
```suggestion
  have h : 2^n ≤ 2^8 := Nat.pow_le_pow_of_le (a:=2) Nat.one_lt_ofNat hn
```

File: Clean/Utils/Rotation.lean [hunk 82]
```diff
@@ -127,7 +127,7 @@ def rotRight64_eq_bv_rotate (x : ℕ) (h : x < 2^64) (offset : ℕ) :
         apply Nat.le_of_lt
         apply Nat.mod_lt
         linarith
-      rw (occs:= .pos [4]) [eq]
+      rw (occs := .pos [4]) [eq]
```
Comment (pirapira) [inline Clean/Utils/Rotation.lean]:
```suggestion
      rw (occs:=.pos [4]) [eq]
```

File: Clean/Utils/Rotation.lean [hunk 83]
```diff
@@ -372,7 +372,7 @@ def rotRight32_eq_bv_rotate (x : ℕ) (h : x < 2^32) (offset : ℕ) :
...
```
Comment (pirapira) [inline Clean/Utils/Rotation.lean]:
```suggestion
      rw (occs:=.pos [4]) [eq]
```

File: Clean/Utils/Vector.lean [hunk 84]
```diff
@@ -80,19 +80,19 @@ theorem heq_cast {v : Vector α n} (h : n = m) : HEq v (v.cast h) := by
...
   | ⟨ .mk [], h ⟩ => by
     have : n = 0 := by rw [←h, List.length_eq_zero_iff]
     subst this
     congr
-  | ⟨ .mk (a::as), h ⟩ => by
+  | ⟨ .mk (a :: as), h ⟩ => by
     have : as.length + 1 = n := by rw [←h, List.size_toArray, List.length_cons]
     subst this
-    have ih := induct (n:=as.length) nil cons ⟨ .mk as, rfl ⟩
+    have ih := induct (n := as.length) nil cons ⟨ .mk as, rfl ⟩
```
Comment (pirapira) [inline Clean/Utils/Vector.lean]:
```suggestion
    have ih := induct (n:=as.length) nil cons ⟨ .mk as, rfl ⟩
```

File: Clean/Gadgets/Xor/Xor64.lean [hunk 85]
```diff
@@ -80,7 +80,7 @@ theorem soundness_to_u64 {x y z : U64 (F p)}
     simp only [U64.Normalized, h_eq]
     exact ⟨ Nat.xor_lt_two_pow (n:=8) hx0 hy0, Nat.xor_lt_two_pow (n:=8) hx1 hy1,
       Nat.xor_lt_two_pow (n:=8) hx2 hy2, Nat.xor_lt_two_pow (n:=8) hx3 hy3,
-      Nat.xor_lt_two_pow (n:=8) hx4 hy4, Nat.xor_lt_two_pow (n:=8) hx5 hy5,
+      Nat.xor_lt_two_pow (n:=\8) hx4 hy4, Nat.xor_lt_two_pow (n:=8) hx5 hy5,
```
Comment (pirapira) [inline Clean/Gadgets/Xor/Xor64.lean]:
```suggestion
      Nat.xor_lt_two_pow (n:=8) hx4 hy4, Nat.xor_lt_two_pow (n:=8) hx5 hy5,
```

**Review by pirapira — COMMENTED** [review]
Fixes

File: Clean/Table/WitnessGeneration.lean [hunk 86]
```diff
@@ -1,11 +1,11 @@
 import Clean.Table.Basic
 
-variable {F : Type} {S : Type → Type} {W: ℕ+} [ProvableType S] [Field F]
+variable {F : Type} {S : Type → Type} {W : ℕ+} [ProvableType S] [Field F]
 
 /--
   Build an index map for auxiliary cells from vars of `CellAssignment` to the cells in a trace row.
   The rule is that the auxiliary cells are appended to the end of the row in order.
-  For example: [input<0>, aux<0>, input<1>, input<2>, aux<1>] => {1: 3, 4: 4}
+  For example: [input<0>, aux<0>, input<1>, input<2>, aux<1>] => {1 : 3, 4: 4}
```
Comment (pirapira) [inline Clean/Table/WitnessGeneration.lean]:
```suggestion
  For example: [input<0>, aux<0>, input<1>, input<2>, aux<1>] => {1: 3, 4: 4}
```

File: Clean/Gadgets/Rotation64/Rotation64Bits.lean [hunk 87]
```diff
@@ -24,19 +24,19 @@ def main (offset : Fin 8) (x : Var U64 (F p)) : Circuit (F p) (Var U64 (F p)) :=
...
 
-def Spec (offset : Fin 8) (x : U64 (F p)) (y: U64 (F p)) :=
+def Spec (offset : Fin 8) (x : U64 (F p)) (y : U64 (F p)) :=
   y.value = rotRight64 x.value offset.val
   ∧ y.Normalized
 
 def output (offset : Fin 8) (i0 : ℕ) : U64 (Expression (F p)) :=
   U64.fromLimbs (.ofFn fun ⟨i,_⟩ =>
-    (var ⟨i0 + i*2 + 1⟩) + var ⟨i0 + (i + 1) % 8 * 2⟩ * .const ((2^(8 - offset.val) : ℕ) : F p))
+    (var ⟨i0 + i * 2 + 1⟩) + var ⟨i0 + (i + 1) % 8 * 2⟩ * .const ((2^(8-offset.val) : ℕ) : F p))
```
Comment (pirapira) [inline Clean/Gadgets/Rotation64/Rotation64Bits.lean]:
```suggestion
    (var ⟨i0 + i*2 + 1⟩) + var ⟨i0 + (i + 1) % 8 * 2⟩ * .const ((2^(8-offset.val) : ℕ) : F p))
```

File: Clean/Utils/Vector.lean [hunk 88]
```diff
@@ -301,7 +301,7 @@ theorem Composition.ofProductLength_mem_length {m: ℕ+} {α : Type} {l : List 
 
 namespace Vector
 /-- Split a vector into equally-sized chunks. -/
-def toChunks (m: ℕ+) {α : Type} (v : Vector α (n*m)) : Vector (Vector α m) n :=
+def toChunks (m : ℕ+) {α : Type} (v : Vector α (n * m)) : Vector (Vector α m) n :=
```
Comment (pirapira) [inline Clean/Utils/Vector.lean]:
```suggestion
def toChunks (m : ℕ+) {α : Type} (v : Vector α (n*m)) : Vector (Vector α m) n :=
```

File: Clean/Utils/Vector.lean [hunk 89]
```diff
@@ -312,12 +312,12 @@ def toChunks (m: ℕ+) {α : Type} (v : Vector α (n*m)) : Vector (Vector α m)
     rw [←Composition.blocks_length, List.length_replicate]
   )
 
-theorem toChunks_flatten {α : Type} (m: ℕ+) (v : Vector α (n*m)) :
+theorem toChunks_flatten {α : Type} (m : ℕ+) (v : Vector α (n * m)) :
```
Comment (pirapira) [inline Clean/Utils/Vector.lean]:
```suggestion
theorem toChunks_flatten {α : Type} (m : ℕ+) (v : Vector α (n*m)) :
```

File: Clean/Utils/Vector.lean [hunk 90]
```diff
@@ -345,7 +345,7 @@ theorem flatten_toChunks {α : Type} (m: ℕ+) (v : Vector (Vector α m) n) :
     List.map_id_fun', id_eq, v_list_list]
 
 -- using the above, it's quite easy to prove theorems about `toChunks` from similar theorems about `flatten`!
-theorem toChunks_push (m: ℕ+) {α : Type} (vs : Vector α (n*m)) (v : Vector α m) :
+theorem toChunks_push (m : ℕ+) {α : Type} (vs : Vector α (n * m)) (v : Vector α m) :
```
Comment (pirapira) [inline Clean/Utils/Vector.lean]:
```suggestion
theorem toChunks_push (m : ℕ+) {α : Type} (vs : Vector α (n*m)) (v : Vector α m) :
```

**Review by pirapira — COMMENTED** [review]
Questionable changes.

File: Clean/Circuit/Provable.lean [hunk 91]
```diff
@@ -501,9 +501,9 @@ lemma eval_vector_eq_get {M : TypeMap} [NonEmptyProvableType M] {n : ℕ} (env :
   rw [eval_vector]
   rw [Vector.getElem_map]
 
-theorem varFromOffset_vector {F : Type} [Field F] {α: TypeMap} [NonEmptyProvableType α] (offset : ℕ) :
+theorem varFromOffset_vector {F : Type} [Field F] {α : TypeMap} [NonEmptyProvableType α] (offset : ℕ) :
     varFromOffset (F:=F) (ProvableVector α n) offset
-    = .mapRange n fun i => varFromOffset α (offset + (size α)*i) := by
+    = .mapRange n fun i => varFromOffset α (offset + (size α) * i) := by
```
Comment (pirapira) [inline Clean/Circuit/Provable.lean]:
```suggestion
    = .mapRange n fun i => varFromOffset α (offset + (size α)*i) := by
```

File: Clean/Circomlib/Gates.lean (hunk 3 above)
Comment (pirapira) [reply Clean/Circomlib/Gates.lean]: I documented `2*a*b` without spaces, and applied that in the diff. At least this PR doesn't go in the other direction.

File: doc/conventions.md [hunk 92]
```diff
@@ -0,0 +1,46 @@
...
+  - ✅ `(F : Type)`
+  - ❌ `(F:Type)`
+
+- **Assignment operator**: Use spaces around `:=`
+  - ✅ `let x := 5`
+  - ❌ `let x:=5`
+
+- **General named parameters**: Use spaces around `:=`
+  - ✅ `(constant := constant)`
+  - ❌ `(constant:=constant)`
```
Comment (mitschabaude) [inline doc/conventions.md]: this is inconsistent with the local convention below!

**Review by mitschabaude — APPROVED** [review]
very nice!

File: doc/conventions.md (hunk 92 above)
Comment (pirapira) [reply doc/conventions.md]: ouch

Comment (pirapira) [reply doc/conventions.md]: fixed.
